US06087387
A solution of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-methylsulfinylpyrazole (10 g) in dry DMF was added during 10 minutes to potassium hydride (0.7 g of a 35% suspension in oil) in dry DMF at 4° C. and stirred for 20 min. Vinyl ethyl sulfone (3.13 g) in dry DMF was added over 5hr at 4° C. and the mixture stirred overnight whilst warming to 20° C. under a nitrogen atmosphere. The mixture was recooled, ammonium chloride solution added and the organic layer washed (water), dried (sodium sulfate) and evaporated. The residue was crystallized (ethyl acetate/hexane) to give 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-5-(2-ethylsulfonylethylamino)-4-methylsulfinylpyrazole (4.08 g), m.p. 131-132° C.

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-methylsulfinylpyrazole | 10 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)C | C12H7Cl2F3N4OS
reactant | potassium hydride | [H-].[K+]
reactant | Vinyl ethyl sulfone | 3.13 g | C(C)S(=O)(=O)C=C | C4H8O2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-5-(2-ethylsulfonylethylamino)-4-methylsulfinylpyrazole | 4.08 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1NCCS(=O)(=O)CC)S(=O)C)C#N | C16H15Cl2F3N4O3S2
